US08633173B2
N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-benzyl)-methanesulfonamide was prepared from N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide (75.0 mg, 0.214 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (49.0 mg, 0.238 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (24.0 mg, 0.0439 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.050 g, 45%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.41 (d, J=6.5 Hz, 1H), 8.01-7.95 (m, 2H), 7.58 (d, J=7.4 Hz, 1H), 7.52 (t, J=7.8 Hz, 1H), 7.48 (d, J=8.8 Hz, 2H), 7.42 (d, J=7.5 Hz, 1H), 6.97-6.91 (m, 3H), 6.68 (s, 1H), 4.42 (s, 2H), 4.11 (t, J=6.0 Hz, 2H), 2.90 (t, J=5.9 Hz, 2H), 2.87 (s, 3H), 2.83 (s, 3H), 2.67-2.57 (m, 4H), 1.87-1.77 (m, 4H). MS=521 (MH)+.

reactant | N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide | 0.214 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)C=2C=C(CN(S(=O)(=O)C)C)C=CC2)=N1 | C15H15ClN4O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.238 mmol, 49.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0439 mmol, 24.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C27H32N6O3S
